US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, (0.242 g, 1.22 mmol) was reacted with 2-azidoethanamine (0.105 g, 1.22 mmol) and triethylamine (0.246 g, 2.43 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)-4-butylbenzamide (0.224 g, 75%). 1H NMR (300 MHz, CDCl3) δ 7.73 (d, 2H), δ 7.39 (t, 1H), δ 7.17 (d, 2H), δ 3.55 (q, 2H), δ 3.45 (t, 2H), δ 2.60 (t, 2H), δ 1.56 (m, 2H), δ 1.30 (m, 2H), δ 0.90 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 168.5, 147.2, 131.7, 128.8, 127.4, 50.9, 39.7, 35.7, 33.5, 22.5, 14.1 ppm; HRMS (ESI) calcd for C13H18N4O (M+) 246.1481. found 246.1476.

reactant | N-(2-azidoethyl)tetradecanamide | 1.22 mmol, 0.242 g | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 2-azidoethanamine | 1.22 mmol, 0.105 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.43 mmol, 0.246 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)-4-butylbenzamide | 0.224 g, 75% | N(=[N+]=[N-])CCNC(C1=CC=C(C=C1)CCCC)=O | C13H18N4O
